US07687502B2
5-Chloro-2-methyl-4-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridazin-3(2H)-one
The compound of Example 127 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 4,5-dichloro-2-methyl-3(2H)pyridazinone, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 4,5-dichloro-2-methyl-3(2H)pyridazinone | ClC=1C(N(N=CC1Cl)C)=O | C5H4Cl2N2O
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 5-Chloro-2-methyl-4-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridazin-3(2H)-one | ClC1=C(C(N(N=C1)C)=O)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C17H14ClN7O2
